US09255110B2
A solution of diisopropylazadicarboxylate (1.65 g, 8.16 mmol) in anhydrous tetrahydrofuran (5 mL) was added, dropwise, at 0° C., to a solution of 4-chloro-2-nitrophenol (0.75 g, 4.32 mmol), 4-(tert-butyl-dimethyl-silanyloxy)-cyclohexanol (1.2 g, 5.21 mmol) and triphenylphosphine (2.27 g, 8.65 mmol) in anhydrous tetrahydrofuran (10 mL). The resulting mixture was stirred at 0° C. for 1 hour and at room temperature overnight. The reaction mixture was then sonicated for 20 minutes at room temperature and for 30 minutes at 40° C. and then was stirred at room temperature for 24 hours. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and an aqueous solution of sodium bicarbonate (5%), the organic layer was separated and the aqueous layer was extracted 3 times with ethyl acetate. The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The yellow oily residue was purified on a silica gel plug (hexane/EtOAc, from 99/1 to 90/10) to give a yellow oil. This material was dissolved in a mixture of ethyl acetate and hexane (1/1) and the resulting solution was washed twice with an aqueous solution of sodium hydroxide (3 M) and once with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to give 1.28 g (79% yield) of tert-butyl-[4-(4-chloro-2-nitro-phenoxy)-cyclohexyloxy]-dimethyl-silane as a light yellow oil.

reactant | 4-chloro-2-nitrophenol | 4.32 mmol, 0.75 g | ClC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 4-(tert-butyl-dimethyl-silanyloxy)-cyclohexanol | 5.21 mmol, 1.2 g | C(C)(C)(C)[Si](OC1CCC(CC1)O)(C)C | C12H26O2Si
reactant | triphenylphosphine | 8.65 mmol, 2.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | tert-butyl-[4-(4-chloro-2-nitro-phenoxy)-cyclohexyloxy]-dimethyl-silane | 1.28 g, 79% yield | C(C)(C)(C)[Si](C)(C)OC1CCC(CC1)OC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C18H28ClNO4Si
